US08003785B2
A mixture of 0.100 g (0.22 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-22), 0.033 g (0.33 mmole) of cyclohexylamine, 0.102 g (0.27 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.036 g (0.27 mmole) of 1-hydroxybenzotriazole, 0.195 mL (1.12 mmole) of diisopropylethyl amine and 2.0 mL of dimethylformamide was stirred for 18 hours. The mixture was diluted with 10 mL of water plus 2 mL of saturated aqueous sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by C18 reverse phase silica gel chromatography, eluting with an acetonitrile-water (gradient, 20:80-100:0) to give 0.013 g of N-cyclohexyl-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzamide (I-27) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.22 mmole, 0.100 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | cyclohexylamine | 0.33 mmole, 0.033 g | C1(CCCCC1)N | C6H13N
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.27 mmole, 0.102 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | 1-hydroxybenzotriazole | 0.27 mmole, 0.036 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethyl amine | 1.12 mmole, 0.195 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | N-cyclohexyl-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzamide | 0.013 g | C1(CCCCC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C27H34F2N6O3
